US08110687B2
Step 5 tert-Butyl (4-{[7-({[4-chloro-3-(trifluoromethyl)phenyl]amino}carbonyl)-2-naphthyl]oxy}pyridin-2-yl)carbamate (I-163)
To a solution of 7-({2-[(tert-butoxycarbonyl)amino]pyridin-4-yl}oxy)-2-naphthoic acid (350 mg, 0.92 mmol) in DCM (9.0 mL), was added 4-chloro-3-(trifluoromethyl)aniline (198.0 mg, 1.0 mmol); EDCl (194 mg, 1.0 mmol) and DMAP (124 mg, 1.0 mmol). The mixture was allowed to stir for 18 h then diluted with EtOAc and washed with water and then brine. The organic phase was dried (Na2SO4) and evaporated, and the residue was triturated with DCM/EtOAc/MeOH to yield the title compound as a white solid (420 mg, 81.8%). LCMS: (FA) ES+ 558.1, ES− 556.1.

reactant | 7-({2-[(tert-butoxycarbonyl)amino]pyridin-4-yl}oxy)-2-naphthoic acid | 0.92 mmol, 350 mg | C(C)(C)(C)OC(=O)NC1=NC=CC(=C1)OC1=CC=C2C=CC(=CC2=C1)C(=O)O | C21H20N2O5
reactant | 4-chloro-3-(trifluoromethyl)aniline | 1.0 mmol, 198.0 mg | ClC1=C(C=C(N)C=C1)C(F)(F)F | C7H5ClF3N
reactant | EDCl | 1.0 mmol, 194 mg | CCN=C=NCCCN(C)C.Cl
solvent | DCM | 9.0 mL | C(Cl)Cl | CH2Cl2
catalyst | DMAP | 1.0 mmol, 124 mg | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | tert-Butyl (4-{[7-({[4-chloro-3-(trifluoromethyl)phenyl]amino}carbonyl)-2-naphthyl]oxy}pyridin-2-yl)carbamate | 420 mg, 81.8% | ClC1=C(C=C(C=C1)NC(=O)C1=CC=C2C=CC(=CC2=C1)OC1=CC(=NC=C1)NC(OC(C)(C)C)=O)C(F)(F)F | C28H23ClF3N3O4
